US05702637
Potassium carbonate (2.1 g, 15.7 mmol) was added to a solution of 5-octyl-2-(4-hydroxyphenyl)pyrimidine (3.0 g, 10.5 mmol) and 1-chloro-3-(2-(2-butoxyethoxy)ethoxy)-2-propanol (2.7 g, 10.5 mmol) in N,N-dimethylformamide (100 ml). The resulting mixture was stirred at reflux temperature for 18 hours and then cooled to ambient temperature. The mixture was diluted with water (100 ml) and was extracted with three 100 ml aliquots of diethyl ether. The extracts were dried (over MgSO4), filtered, and concentrated to give crude product as an oil. 5-Octyl-2-[4-((S)-2-hydroxy-3-(2-(2-(butoxy)ethoxy)ethoxy)propoxy)phenyl]pyrimidine was then isolated by chromatography. The chiral (S)-hydroxy compound (3.5 g, 7.5 mmol) was treated with diethylaminosulfur trifluoride (5.3 g, 15 mmol) to produce Comparative Example 1.

reactant | Potassium carbonate | 15.7 mmol, 2.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-octyl-2-(4-hydroxyphenyl)pyrimidine | 10.5 mmol, 3.0 g | C(CCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)O | C18H24N2O
reactant | 1-chloro-3-(2-(2-butoxyethoxy)ethoxy)-2-propanol | 10.5 mmol, 2.7 g | ClCC(COCCOCCOCCCC)O | C11H23ClO4
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 5-Octyl-2-[4-((S)-2-hydroxy-3-(2-(2-(butoxy)ethoxy)ethoxy)propoxy)phenyl]pyrimidine | C(CCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)OC[C@H](COCCOCCOCCCC)O | C29H46N2O5
